US03959322
Add liquid ammonia (100 cc.) to 13β-isopropyl-3-methoxy-gona-1,3,5(10)-trien-17β-ol (0.5 g.) in tetrahydrofuran (50 cc.) followed by lithium metal (0.5 g.), and stir the solution for 10 minutes. Then add ethanol (6 cc.) dropwise. When the blue color is discharged, add water and extract the product with ether. Evaporate the washed and dried extracts to give crude 13β-isopropyl-3-methoxy-gona-2,5(10)-dien-17β-ol (0.5 g.) as colorless gum.

reactant | ammonia | 100 cc | N | H3N
reactant | 13β-isopropyl-3-methoxy-gona-1,3,5(10)-trien-17β-ol | 0.5 g | C(C)(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1C=CC(=CC1CC2)OC)O | C21H30O2
reactant | lithium | 0.5 g | [Li] | Li
reactant | ethanol | 6 cc | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 cc | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 13β-isopropyl-3-methoxy-gona-2,5(10)-dien-17β-ol | 0.5 g | C(C)(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1CC=C(CC1CC2)OC)O | C21H32O2
